US05149699
[5-(tert-Butyldimethylsilyloxymethyl)pyridin-2-yl]tri-n-butylstannane
To a cooled (-78° C.), stirred solution of 2-bromo-5-(tert-butyldimethylsiloxy)methylpyridine (6.8 g, 0.022 mol) in THF (60 mL) was added 1.6M nBuLi in hexanes (14.1 mL, 0.022 mol). After 1 h, tri-n-butyltin chloride (6.1 mL, 0.022 mol) was added and stirring was continued for 3 h. Water was added, and the mixture was warmed to room temperature and extracted with ether. The combined extracts were dried (MgSO4) and concentrated to give 11.5 g (100%) of product as a brown oil.

reactant | 2-bromo-5-(tert-butyldimethylsiloxy)methylpyridine | 0.022 mol, 6.8 g | BrC1=NC=C(C=C1)CO[Si](C)(C)C(C)(C)C | C12H20BrNOSi
reactant | nBuLi | 1.6M | [Li]CCCC
reactant | tri-n-butyltin chloride | 0.022 mol, 6.1 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | Water | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | [5-(tert-Butyldimethylsilyloxymethyl)pyridin-2-yl]tri-n-butylstannane | 11.5 g, 100% | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C12H20NOSi.3C4H9.Sn/c1-12(2,3)15(4,5)14-10-11-7-6-8-13-9-11;3*1-3-4-2;/h6-7,9H,10H2,1-5H3;3*1,3-4H2,2H3;
